US05998412
A mixture of 4-(4-chlorophenyl)piperazine (6.63 g, 33.7 mmol) and sulfamide (3.89 g, 40.5 mmol) in water (10 ml) was heated at 120° C. After 96 h, the reaction mixture was cooled to RT, diluted with ethyl acetate (100 ml). Water (100 ml) was added and the reaction mixture was stirred vigorously for several minutes. The solid was filtered to give [4-(4-chlorophenyl)-piperazine-1-sulfonyl]amine as a white powder (59%), mp 218.0-220.0° C.

reactant | 4-(4-chlorophenyl)piperazine | 33.7 mmol, 6.63 g | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | sulfamide | 40.5 mmol, 3.89 g | S(=O)(=O)(N)N | H4N2O2S
solvent | water | 10 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 100 ml | O | H2O
product | [4-(4-chlorophenyl)-piperazine-1-sulfonyl]amine | 59% | ClC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)N | C10H14ClN3O2S
